Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, dizziness/lightheadedness, chest discomfort 

 
Major Surgical or Invasive Procedure:
___ PVC ablation via right femoral artery & right femoral 
vein 

 
History of Present Illness:
___ male with history of Atrial fibrillation, gallstone 
pancreatitis status post pancreatic resection, history of DVT 
and PE in ___ s/p AC and IVC filter, who presents with 
shortness of breath, dizziness and lightheadedness. 

He states this morning around ___ AM, he developed 
dizziness/lightheadedness, trouble breathing. He did not pass 
out. No recent falls or head trauma. No recent illnesses, fevers 
or chills. Patient states that these episodes are not new, but 
they usually last only ___ minutes. Sometimes during the day,
most of the time at night, and he says it does not occur with 
exertion. However, the episode this morning lasted ___ hours, 
which is why he came to the hospital. 

On arrival to ED triggered for bradycardia, however this was on 
triage monitor, when rechecked with room telemetry was in NSR in 
___ admission was requested for further work-up.

Was recently seen by Dr. ___ on ___ for atrial 
fibrillation, premature ventricular beats.  He has a history of 
possible coronary artery disease, he states this is based on 
stress test done at ___ many years ago. He was 
started on apixaban, metoprolol was held due to shortness of 
breath. An attempt was going to be made to obtain prior records 
from ___.

In the ED initial vitals were:  T: 98.3  HR: 29  BP: 168/88 
RR:24
SO2: 99% RA 
EKG: Sinus rhythm, rate of 91, with frequent PVCs
Labs/studies notable for: hemoconcentrated but still with
thrombocytopenia (plt 114) Na 150 K: 5.4 crt: 1.0 Trop-T: <0.01 
proBNP: 679   
CXR:  platelike atelectasis at lung bases.

Patient was given:  Aspirin 324 mg

Upon arrival to the floor, patient endorses the above history. 
He also states that Dr. ___ him to stop his aspirin, so he 
has not been taking it recently. He denies any other medication 
changes. He denies current symptoms of lightheadedness, 
dizziness, nausea, vomiting, chest pain, palpitations, SOB,
abdominal pain, diarrhea, leg swelling.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- No h/o diabetes, hypertension, hyperlipidemia
+ presumed PAD (yet to complete ABI evaluation)
- unclear history of CAD evaluation at ___
previously 
2. CARDIAC HISTORY  
- no h/o stents, cath
- preserved EF 
* paroxysmal atrial fibrillation, h/o PVCs 
3. OTHER PAST MEDICAL HISTORY  
* s/p roux-en-Y cholecystojejunostomy ___
* gallstone pancreatitis s/p emergent resection of pancreas due
to necrosis 200
* hemi hepatectomy secondary to hydatid disease ___
* BPH
* DVT and PE (h/o)
* diverticulosis
 
Social History:
___
Family History:
Father with MI, mother w/brain tumor
 
Physical Exam:
Admission Physical Exam: 
VS: ___ 1744 Temp: 97.7 PO BP: 171/81 L Sitting HR: 60 RR:
20 O2 sat: 96% O2 delivery: RA   
GENERAL: Elderly male sitting up on the side of his bed, NAD.
Wife and son in the room as well.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP <10 at 90 degrees with +hepatojugular reflex.
CARDIAC: Regular rate, irregular rhythm. Normal S1, S2. No
murmurs, rubs, or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use.
Bibasilar rales, R>L.
ABDOMEN: +BS. Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No edema. 
===========
Discharge PE:
VS: tmax 99.1, BP 114-150/72-76, HR 60-70's, RR ___, 94%RA
24 hour I/O: inaccurate
Weight: inaccurate

Gen: comfortable, NAD
CV: rrr, S1,S2, no m/r/g
Lungs: CTABL
Ext: warm, no edema, right groin dressing c/d/, no underlying 
hematoma, F08 suture removed 
 
Pertinent Results:
CXR: AP upright ___: 
The cardiac silhouette is at the upper limits of normal.  There 
is a large effusion.  There is a small amount of platelike 
atelectasis at the lung bases.  Imaged osseous structures are 
intact. 
IMPRESSION: No acute findings.

Stress echo (___): 
 CONCLUSION:
STRESS CONCLUSION: Average functional exercise capacity for age 
and gender. No ischemic ECG changes with no symptoms to achieved 
treadmill stress. Unable to assess for changes in left 
ventricular filling pressure with exercise. Normal resting blood 
pressure with a normal blood pressure and a normal heart rate 
response to achieved workload. Frequent ventricular irritability 
noted at rest, exercise and throughout recovery with rare 
ventricular triplets and one, 5-bt run of nonsustained VT. Mild 
mitral regurgitation at rest. Mildly increased pulmonary artery 
systolic
pressure at rest with no change after exercise.

-Indication: ___ yo man with h/o PAF, DVT/PE in ___ and PVD was 
referred to evaluate an atypical chest discomfort, shortness of 
breath and lightheadedness. The patient was also seen to assess 
VPB burden during exercise and hemodynamic response to exercise.
-Medications: apixaban 5 mg BID, finasteride 5 mg QD, tamsulosin 
0.4 mg QD, acetaminophen 650 mg prn, senna 17.2 mg QD, MVIT with 
minerals
-Type of stress/symptoms: The patient exercised on a Gervino 
treadmill (3 min stages) protocol for 9 min 30 sec ___ METS) 
representing an average exercise capacity for age and gender. 
The test was stopped due to fatigue. The patient had no symptoms 
at rest/prior to stress. In response to stress, the patient had 
no chest, back, neck or arm discomforts. No palpitations or 
lightheadedness was reported.
-Hemodynamics: At rest, the blood pressure was 126/80 mmHg and 
the heart rate was 66 bpm. In response to stress, the heart rate 
increased to 127 bpm (91 % APMHR) with a peak systolic blood 
pressure of 174 mmHg (peak rate-pressure product = ___.
-ECG: The resting ECG showed sinus rhythm with frequent VPBs and 
ventricular couplets and no STT wave changes. The stress ECG 
showed showed no ischemic changes with stress or during 
recovery. During stress there were occasional atrial premature 
beats with rare atrial couplets. Frequent ventricular 
irritability was noted at rest, during exercise and during the 
recovery period; frequent VPBs with periods of ventricular 
bigeminy, occasional to frequent ventricular couplets, rare 
ventricular triplets and one 5-bt run of nonsustained VT noted 
post-exercise (majority LBB morphology and IL axis).
-Rest Echo: Resting echo images demonstrated mild symmetric left 
ventricular hypertrophy with a mildly dilated cavity. There is 
normal regional left ventricular systolic function. Overall left 
ventricular
systolic function is normal. The visually estimated resting left 
ventricular ejection fraction is 55-60%.
-Diastolic function could not be assessed The right ventricular 
cavity size is normal with normal free wall motion. There is no 
pericardial effusion. Doppler demonstrates no aortic valve 
stenosis, trace aortic
regurgitation and mild [1+] mitral regurgitation. The resting 
estimated pulmonary artery systolic pressure is mildly 
increased.
-Stress Echo: Echo images were acquired within 58 sec post 
stress at heart rates of 120 to 100 bpm. These demonstrated 
appropriate augmentation of all left ventricular segments. The 
E/e' was at unable to be accurately assessed post-exercise. 
There was appropriate augmentation of right ventricular free 
wall motion. The pulmonary artery systolic pressure was 44 mmHg 
(+ right atrial pressure) at post exercise at a heart rate of. 
This value is similar to baseline/rest.

EP report: ___
Findings
Successful PVC ablation
No acute complications
===========================

Labs:

___ 07:05AM BLOOD WBC-8.7 RBC-4.60 Hgb-14.5 Hct-46.2 
MCV-100* MCH-31.5 MCHC-31.4* RDW-13.2 RDWSD-48.8* Plt ___
___ 07:20AM BLOOD WBC-7.7 RBC-4.80 Hgb-15.3 Hct-48.1 
MCV-100* MCH-31.9 MCHC-31.8* RDW-13.3 RDWSD-49.4* Plt ___
___ 07:44AM BLOOD WBC-7.2 RBC-4.69 Hgb-14.9 Hct-46.9 
MCV-100* MCH-31.8 MCHC-31.8* RDW-13.5 RDWSD-49.2* Plt ___
___ 09:45AM BLOOD WBC-7.5 RBC-4.95 Hgb-15.6 Hct-50.2 
MCV-101* MCH-31.5 MCHC-31.1* RDW-13.5 RDWSD-50.6* Plt ___
___ 07:44AM BLOOD Neuts-60.7 ___ Monos-9.1 Eos-2.4 
Baso-0.3 Im ___ AbsNeut-4.36 AbsLymp-1.95 AbsMono-0.65 
AbsEos-0.17 AbsBaso-0.02
___ 09:45AM BLOOD Neuts-68.1 ___ Monos-7.5 Eos-0.9* 
Baso-0.3 Im ___ AbsNeut-5.12 AbsLymp-1.72 AbsMono-0.56 
AbsEos-0.07 AbsBaso-0.02
___ 09:45AM BLOOD ___ PTT-27.3 ___
___ 07:05AM BLOOD UreaN-15 Creat-0.9 Na-144 K-4.0 Cl-107 
HCO3-26 AnGap-11
___ 07:20AM BLOOD UreaN-18 Creat-0.9 Na-143 K-4.5 Cl-107 
HCO3-26 AnGap-10
___ 07:44AM BLOOD Glucose-114* UreaN-18 Creat-0.8 Na-143 
K-4.5 Cl-108 HCO3-26 AnGap-9*
___ 07:15PM BLOOD Glucose-109* UreaN-18 Creat-0.9 Na-144 
K-4.0 Cl-107 HCO3-28 AnGap-9*
___ 09:45AM BLOOD Glucose-123* UreaN-19 Creat-1.0 Na-150* 
K-5.4 Cl-113* HCO3-21* AnGap-16
___ 01:54PM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:45AM BLOOD cTropnT-<0.01
___ 09:45AM BLOOD proBNP-679
___ 07:05AM BLOOD Mg-2.0
___ 07:20AM BLOOD Mg-2.0
___ 07:44AM BLOOD Calcium-9.0 Phos-2.9 Mg-1.9 Cholest-167
___ 07:15PM BLOOD Calcium-9.1 Phos-3.0 Mg-2.0
___ 09:45AM BLOOD Calcium-9.8 Phos-2.8 Mg-2.2
___ 07:44AM BLOOD Triglyc-135 HDL-42 CHOL/HD-4.0 LDLcalc-98
___ 07:44AM BLOOD TSH-2.3
___ 07:44AM BLOOD T4-6.___ admitted for further workup of episodes of pre-syncope with 
dyspnea and lightheadedness. Now s/p unremarkable stress echo 
and PVC ablation.  Patient was seen and examined the day of 
discharge and plan is below.

# Pre-Syncope/Dyspnea: ___ be due to high PVC burden as no other 
cause has been identified in workup thus far. Saw pulmonary 
outpatient prior to cardiology evaluation. Therefore, a PVC 
ablation was performed by EP, Dr. ___ on ___ in attempt to 
improve symptoms. 
- No beta blocker resumed per Dr. ___ 
- 24-hr holter monitor on discharge 
- Follow up with Dr. ___ in 1 month

# Atrial fibrillation; chronic, paroxysmal: CHADS-VASc 2. Sinus 
bradycardia on telemetry during hospitalization.  
- Continue Apixaban 5mg BID 
- No beta blocker given bradycardia  

# Hypernatremia: 150 on admit, now improved.

# Possible hx of CAD: prior eval with stress test at ___ 
___ per outpatient notes, no evidence now of ACS, negative 
trop x2, stress ___ here showing no ischemic EKG changes. 
- Continue Aspirin 81mg daily per Dr. ___ outpatient 
note
- Statin deferred for now (Chol 167 Trig 135 HDL 42 LDL 98)
- Patient will continue to follow with cardiologist Dr. ___

#H/o DVT/PE: LLE DVT with PE in ___ s/p IVC filter placement
(still present ___ CT abd)
- Anticoagulation as above

 #Dispo: DC home with family

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Lactobacillus rhamnosus GG 5 billion cell oral DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Aspirin 81 mg PO DAILY  
3.  Finasteride 5 mg PO DAILY  
4.  Lactobacillus rhamnosus GG 5 billion cell oral DAILY  
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Fibrillation, paroxysmal 
PVCs 
Hx of DVT/PE s/p IVC filter 
 

 
Discharge Condition:
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive. 
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital for further evaluation of your 
symptoms of intermittent episodes of shortness of breath and 
dizziness. You had a stress test with echocardiogram which 
confirmed that your heart is functioning as it should. 

You were having frequent premature ventricular contractions 
"PVCs" and an ablation was performed on ___ to help stop 
these extra beats with the goal to improve your symptoms. You 
will be sent home with a 24-hour heart monitor to evaluate your 
heart rhythm following your procedure. 

As discussed, you may need further outpatient workup with your 
regular doctors if your ___ do not improve after the 
ablation.  

You have a follow up visit scheduled with the vascular 
specialist for further evaluation of your previously noted leg 
weakness as well as a follow up visit with your primary 
cardiologist, Dr. ___ as listed below. 

Instructions have been given regarding activity restrictions and 
care of your groin access site following your ablation 
procedure. 

Please continue your current medications. Do not resume 
Metoprolol, this was stopped due to your low heart rates. 
Continue taking both apixaban and aspirin per Dr. ___.

If you have any urgent questions that are related to your 
recovery from your medical issues or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ Heart Line at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. 

It has been a pleasure to have participated in your care and we 
wish you the best with your health

Your ___ Cardiac Care Team

 
Followup Instructions:
___